US08044213B2
A mixture of 2.00 g (0.0066 mole) of 2-carbamimidoylsulfanyl-3-oxo-3-(2-trifluoromethyl-phenyl)-propionamide in 80 mL of ethanol was heated to 60 degrees for overnight. The mixture was concentrated under reduce pressure. Purification of the residue by chromatography on C18-reverse phase silica gel, eluting with water-acetonitrile (gradient 100:0-50:50) gave 1.32 g of 2-amino-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (V.17) as a yellow solid.

reactant | 2-carbamimidoylsulfanyl-3-oxo-3-(2-trifluoromethyl-phenyl)-propionamide | 0.0066 mole, 2.00 g | C(N)(=N)SC(C(=O)N)C(C1=C(C=CC=C1)C(F)(F)F)=O | C11H10F3N3O2S
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-amino-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 1.32 g | NC=1SC(=C(N1)C1=C(C=CC=C1)C(F)(F)F)C(=O)N | C11H8F3N3OS
